US07557207B2
7.2.1 Racemic-2-(2-t-Butyldimethylsiloxyethyl)-6-nitro-3-oxo-4H-benz[1,4]oxazine
To solution of 4.8 g racemic-2-(2-hydroxyethyl)-6-nitro-3-oxo-4H-benz[1,4]oxazine in dimethylformamide (100 mL) and 3.4 mL diethylisopropylamine at 0° C. was added 4.7 g tert-butyldimethylsilylchloride. The reaction mixture was stirred at 0° C. for 20 minutes, at room temperature for 3 hour, concentrated and the resulting residue was partitioned between sodium bicarbonate solution and EtOAc. The aqueous phase was extracted with EtOAc and the combined organics washed with water, brine then dried over MgSO4. The solvent was removed by in vacuo and the crude material purified by column chromatography (hexanes/EtOAc) to yield 1 g of the desired product racemic-2-(2-t-butyldimethylsiloxyethyl)-6-nitro-3-oxo-4H-benz[1,4]oxazine MS (m/e): 353 (MH+).

reactant | racemic-2-(2-hydroxyethyl)-6-nitro-3-oxo-4H-benz[1,4]oxazine | 4.8 g | OCCC1OC2=C(NC1=O)C=C(C=C2)[N+](=O)[O-] | C10H10N2O5
reactant | tert-butyldimethylsilylchloride | 4.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | diethylisopropylamine | 3.4 mL | C(C)N(C(C)C)CC | C7H17N
product | Racemic-2-(2-t-Butyldimethylsiloxyethyl)-6-nitro-3-oxo-4H-benz[1,4]oxazine | 1 g | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=C(C=C2)[N+](=O)[O-] | C16H24N2O5Si
